US07585874B2
Cyclopentanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide
As described for Example 56, 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine (96 mg, 0.33 mmol) was converted, using cyclopentanecarboxylic acid instead of cyclopropylacetic acid, to the title compound (56 mg, 48%) which was obtained as an off-white solid. MS: m/e=387.3 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-ylamine | 0.33 mmol, 96 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)N)C1 | C17H14N4O
reactant | cyclopentanecarboxylic acid | C1(CCCC1)C(=O)O | C6H10O2
product | Cyclopentanecarboxylic acid [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-6-yl]-amide | 56 mg, 48% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=C(C=C2)NC(=O)C2CCCC2)C1 | C23H22N4O2
